US04254260
To a mixture of aluminum chloride (510 mg.) and dried toluene (15 ml.) was added 2-methanesulfonamido-5-benzylthiothiazole (560 mg.) over 5 minutes at 110° C. with stirring, and the mixture was further stirred for 1 hour at the same temperature. After the reaction, toluene was removed by decantation. To the residue was added a mixture of water (20 ml.) and methylene chloride (20 ml), and the mixture was stirred for 30 minutes. Thus obtained insoluble material was collected by filtration, washed with water and then dried to give 2-methanesulfonamidothiazole-5-thiol (120 mg.), mp 185° to 192° C. (dec.).

reactant | aluminum chloride | 510 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-methanesulfonamido-5-benzylthiothiazole | 560 mg | CS(=O)(=O)NC=1SC(=CN1)SCC1=CC=CC=C1 | C11H12N2O2S3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | 2-methanesulfonamidothiazole-5-thiol | 120 mg | CS(=O)(=O)NC=1SC(=CN1)S | C4H6N2O2S3
